US05936109
A solution of methyl (Z)-2acetamido-3-(2-naphthyl)propenoate (0.3 g, 1.11 mmol) and the catalyst (I) (7 mg, 0.011 mmol, 1.0 mol %) in degassed methanol (10 ml) was placed in a 50 ml Parr pressure reactor purged with nitrogen. The vessel was then purged with hydrogen (×3) and charged to 4.13 MPa (600 psi) of hydrogen. After stirring for 2 h, the solution was evaporated to give (R)-N-acetyl-3(2-naphthyl)alanine methyl ester (0.31 g, quantitative yield, 77.5% ee).

reactant | methyl (Z)-2acetamido-3-(2-naphthyl)propenoate | 1.11 mmol, 0.3 g | C(C)(=O)N\C(\C(=O)OC)=C/C1=CC2=CC=CC=C2C=C1 | C16H15NO3
solvent | methanol | 10 ml | CO | CH4O
product | (R)-N-acetyl-3(2-naphthyl)alanine methyl ester | 0.31 g, quantitative yield | COC([C@H](NC(C)=O)CC1=CC2=CC=CC=C2C=C1)=O | C16H17NO3
